Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right eye blindness
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a distant history of 
MI and subsequent left eye complete blindness of unclear 
etiology, HTN, HLD who presents with right eye blindness. 

She was in her usual state of health and doing a crossword 
puzzle at her assisted living facility on the evening of ___ 
when the vision in her right eye suddenly went completely dark. 
She was unable to perceive any light, and did not see any 
flashing lights or floaters. She did not have any pain in the 
eye. 

EMS was called and she was transported to ___. 
Workup there included non-contrast head CT which showed atrophy, 
but no acute changes or evidence of hemorrhage. She was 
transferred to ___ for further management. 

On arrival, vital signs were within normal limits. Exam was 
notable for absence of deficits in speech or language 
comprehension, no focal weakness, or facial asymmetry. 
Ophthalmology was consulted and fundoscopic exam showed a clot 
occluding the central retinal artery. 

 
Past Medical History:
- MI ___ years ago per patient, subsequent OS blindness
- nephrectomy, per pt
- HTN
- cataract surgery OD in ___
 
Social History:
___
Family History:
No family history of stroke. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Vitals:  T: 97.5 HR: 75 BP: 180/82 RR: 18 SaO2: 98% RA 
General: Awake, cooperative, NAD. Edentulous
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:  Breathing comfortably, no tachypnea nor increased 
WOB
Cardiac:  Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema.

Neurologic Examination:
- Mental status: Awake, alert, oriented to place, ___ week of
___. Significant tangentiality when providing history 
which
makes it difficult to obtain clear, concise history. 
Inattentive,
with MOYB she says "___.. no... ___ ...
no I skipped ___.. ___.. no....
___ and then lost track of task.  Speech is fluent with normal
grammar and syntax. No paraphasic errors. Repetition intact.
Comprehension intact to complex, cross-body commands. 

-Cranial Nerves: Pupils 6mm and fixed (s/p dilated funduscopic
exam by Ophtho). ___: able to count fingers OD. VFF to finger
counting in all fields.  EOMI without nystagmus except mild
limitation of upgaze wnl for age.  Face symmetric at rest and
with activation. Hearing intact to conversation. Palate elevates
symmetrically. ___ strength in trapezii bilaterally. Tongue
protrudes in midline and moves briskly to each side. 

- Motor:  Muscle bulk decreased diffusely, but atrophy noted in
particular bilateral hand intrinsics. Normal tone. No drift. No
tremor nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc           
L  5    ___   ___  4+  5    4+ 5                 
R  5    ___   ___  4   5    4+ 5     

-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
L  2  2    2    2   0                        
R  2  2    2    2   0                       
Plantar response was flexor bilaterally.

-Sensory: Intact to LT throughout. Length-dependent decrease in
LT on feet bilaterally. 

- Coordination: Patient unable to see examiner's finger to
perform FTN. RAM are slow, though this is also limited by
patient's ability to see examiner's demonstration. 

- Gait: deferred

Discharge exam: unchanged from admission

 
Pertinent Results:
___ 11:55PM URINE  MUCOUS-RARE*
___ 11:55PM URINE  RBC-2 WBC-24* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 11:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-LG
___ 11:55PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:55PM URINE  UHOLD-HOLD
___ 11:55PM URINE  HOURS-RANDOM
___ 12:36AM   ___ PTT-27.3 ___
___ 12:36AM   PLT COUNT-114*
___ 12:36AM   NEUTS-46.5 ___ MONOS-9.9 EOS-2.6 
BASOS-0.2 IM ___ AbsNeut-3.10 AbsLymp-2.69 AbsMono-0.66 
AbsEos-0.17 AbsBaso-0.01
___ 12:36AM   WBC-6.7 RBC-3.51* HGB-10.1* HCT-31.8* MCV-91 
MCH-28.8 MCHC-31.8* RDW-14.1 RDWSD-46.3
___ 12:36AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:36AM   CRP-0.7
___ 12:36AM   ALBUMIN-3.9
___ 12:36AM   AST(SGOT)-18 ALK PHOS-78 TOT BILI-0.5
___ 12:36AM   estGFR-Using this
___ 12:36AM   GLUCOSE-103* UREA N-29* CREAT-1.4* SODIUM-141 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-25 ANION GAP-20
 
Brief Hospital Course:
Ms. ___ is a ___ woman with remote history of 
cardiac arrest c/b blindness in her left eye and HTN who was 
admitted ___ for acute onset vision loss in her right eye. 
She went to the ED where she was found to have a central retinal 
artery occlusion. She refused all further workup and refused to 
have any new medications added on. She will need to f/u with her 
PCP to discuss goals of care and tapering of her medications. 
She expressed to us that she is DNR/DNI. 

# Blindness: The etiology of the clot leading to the central 
retinal artery occlusion in Ms. ___ is likely cardiogenic 
vs atheroembolic. The source of the clot remained unknown 
because the patient declined MRA and MRI and subsequently 
declined all other medical interventions stating that she did 
not want any further testing: "When it's my time, then it's my 
time." She was judged to be of sound mind to make such decisions 
and was aware of the risks of additional stroke. Family was also 
at bedside for this conversation and also understand the risk 
for stroke. 

# Neurologic status: The patient remained stable throughout her 
stay without gross changes in neurologic status. 

#GU: She was found to have urinalysis findings consistent with 
urinary tract infection however she had no symptoms and thus was 
not treated. Also never had a fever or white count. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No patient refused
4. LDL documented? (X) Yes (LDL = 91) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharm___
[ ]  LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - (X) No patient refused
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (X) No - () N/A

 
Medications on Admission:
Medications: (patient unable to state medications. List below is
per Medication history tab in OMR, needs confirmation with
assisted living facility and/or PCP)
atorvastatin 40 mg daily 
Lasix 20 mg daily
citalopram 20 mg daily 
clopidogrel 75 mg daily
metoprolol ER 25 mg daily
 
Discharge Medications:
1.  Ramelteon 8 mg PO QHS  
2.  Atorvastatin 40 mg PO QPM  
3.  Citalopram 20 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID PRN hard stool  
5.  Furosemide 20 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Central Retinal Artery Occlusion
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: no vision out of left eye, very restricted visual fields 
in right eye, still has color vision. Minimally reactive pupils. 
Otherwise nonfocal. 

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of blindness in your right 
eye resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- hypertension

We are changing your medications as follows:
n/a. We discussed the risks and benefits of an antiplatelet 
agent called Plavix. You requested that we not start you on any 
new medications as you wanted to be comfortable. We spoke about 
the risk of stroke, and you verbalized understanding. 

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___